US05587392
Synthesis of 2-(4-chloro-2-methylphenoxy)naphthalene
Following Example 1, the title compound was synthesized (yield; 9%) from 4-chloro-2-methylphenol and 2-bromonaphthalene.

reactant | 4-chloro-2-methylphenol | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | 2-bromonaphthalene | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
product | 2-(4-chloro-2-methylphenoxy)naphthalene | yield; 9% | ClC1=CC(=C(OC2=CC3=CC=CC=C3C=C2)C=C1)C | C17H13ClO
